US09428477B2
Production of 4-Benzyl-1-((E)-2-decenoyl)piperazine [Compound 26]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 1-benzylpiperazine dihydrochloride as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-benzylpiperazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CCNCC1
product | 4-Benzyl-1-((E)-2-decenoyl)piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C(\C=C\CCCCCCC)=O | C21H32N2O
